US08067448B2
2-Chloro-4-((1R,2S)-1-(5-(4-fluoro-3-hydroxyphenyl)-1,3,4-oxadiazol-2-yl)-2-hydroxypropylamino)-3-methylbenzonitrile
4-((1R,2S)-2-(tert-butyldimethylsilyloxy)-1-(5-(3-(tert-butyldimethylsilyloxy)-4-fluorophenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile (400 mg, 0.63 mmol) was dissolved in THF (10 mL) and cooled to −55° C. under N2 atmosphere. TBAF (1.0M solution in THF, 1.52 mL, 1.52 mmol) was added to the pre-cooled solution slowly and the temperature allowed to rise gradually. After the reaction was complete, sat. NH4Cl (200 mL) was added and the mixture was extracted with EtOAc (3×100 mL). Purification by flash chromatography over silica gel provided the desired product (230 mg). Mp 103-108° C., 1H NMR (500 MHz, acetone-d6, δ in ppm): 7.64 (d, J=9 Hz, 1H), 7.49 (m, 1H), 7.30 (t, J=9 Hz, 1H), 6.86 (d, J=9 Hz, 1H), 5.69 (d, J=9 Hz, 1H), 5.09 (m, 1H), 4.60 (m, 1H), 2.40 (s, 3H), 1.40 (d, J=6 Hz, 3H).

reactant | 4-((1R,2S)-2-(tert-butyldimethylsilyloxy)-1-(5-(3-(tert-butyldimethylsilyloxy)-4-fluorophenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile | 0.63 mmol, 400 mg | [Si](C)(C)(C(C)(C)C)O[C@H]([C@H](C=1OC(=NN1)C1=CC(=C(C=C1)F)O[Si](C)(C)C(C)(C)C)NC1=C(C(=C(C#N)C=C1)Cl)C)C | C31H44ClFN4O3Si2
reactant | TBAF | 1.52 mmol, 1.0M, 1.52 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | NH4Cl | 200 mL | [NH4+].[Cl-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-Chloro-4-((1R,2S)-1-(5-(4-fluoro-3-hydroxyphenyl)-1,3,4-oxadiazol-2-yl)-2-hydroxypropylamino)-3-methylbenzonitrile | 230 mg | ClC1=C(C#N)C=CC(=C1C)N[C@H]([C@H](C)O)C=1OC(=NN1)C1=CC(=C(C=C1)F)O | C19H16ClFN4O3
